US05854268
1. (3R)-1-(tert-Butoxycarbonyl)-3-[(4-fluorobenzylsulfinyl)methyl]pyrrolidine
Using a similar procedure to that described in Example 107, step 1, (3R)-1-(tert-butoxycarbonyl)-3-[(4-fluorobenzylthio)methyl]pyrrolidine (0.5818 g, 1.79 mmol) was reacted with 57-86% 3-chloroperoxybenzoic acid (0.4477 g) in ethyl acetate (35ml) to give 0.5233 g (86%) of the title compound as a colourless oil. δH (360 MHz, CDCl3) 1.45 (9H, s), 1.66 (1H, m), 2.15 (1H, m), 2.54(1H, m), 2.63-2.71 (2H, m), 3.03 (1H, m), 3.31 (1H, m), 3.44 (1H, m), 3.65 (1H, m), 3.96 (2H, s), 7.08 (2H, t, J=8.6 Hz), 7.25-7.29 (2H, m). m/e (ES+) 342 (M+H)+.

reactant | (3R)-1-(tert-butoxycarbonyl)-3-[(4-fluorobenzylthio)methyl]pyrrolidine | 1.79 mmol, 0.5818 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)CSCC1=CC=C(C=C1)F | C17H24FNO2S
reactant | 3-chloroperoxybenzoic acid | 0.4477 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | ethyl acetate | 35ml | C(C)(=O)OCC | C4H8O2
product | (3R)-1-(tert-Butoxycarbonyl)-3-[(4-fluorobenzylsulfinyl)methyl]pyrrolidine | 0.5233 g, 86% | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)CS(=O)CC1=CC=C(C=C1)F | C17H24FNO3S
